US04710221
A solution of methyl 2-(aminosulfonyl)-4-ethoxybenzoate (7.56 g, 29.2 mmol), n-butyl isocyanate (3.29 mL, 29.2 mmol), and 1,4-diaza[2.2.2]bicyclooctane (0.13 g, 1.2 mmol) in mixed xylenes was heated at reflux for 10 minutes. Phosgene was then added at such a rate that the internal temperature stayed at 133° C. or above. When consumption of phosgene ceased, the solution was cooled to room temperature and then filtered under nitrogen. Rotary evaporation gave methyl 4-ethoxy-2-(isocyanatosulfonyl)benzoate as a cloudy yellow oil (8.2 g). This was used immediately without further purification or characterization.

reactant | methyl 2-(aminosulfonyl)-4-ethoxybenzoate | 29.2 mmol, 7.56 g | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)OCC | C10H13NO5S
reactant | n-butyl isocyanate | 29.2 mmol, 3.29 mL | C(CCC)N=C=O | C5H9NO
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
product | methyl 4-ethoxy-2-(isocyanatosulfonyl)benzoate | 8.2 g | C(C)OC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)N=C=O | C11H11NO6S
